Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Amoxicillin / Penicillins / preservatives in injectables
 
Attending: ___
 
___ Complaint:
L knee stiffness s/p prior L TKR in ___
 
Major Surgical or Invasive Procedure:
___: Left knee closed manipulation under anesthesia

 
History of Present Illness:
___ hx RA, fibromyalgia, s/p L TKA ___, s/p R TKA ___ 
presenting with left knee stiffness and pain.
 
Past Medical History:
 - Migraine headaches  
 - Rheumatoid arthritis  
 - Fibromyalgia  
 - HTN  
 - HLD  
 - Depression  
 - s/p bilateral carpal tunnel surgery - ___.  
 - s/p back trauma ___  
 - s/p L TKA ___  
 - s/p R TKA ___  
 - empty sella syndrome  
 
Social History:
___
Family History:
 Mother with migraines, HTN, mitral valve prolapse  
 Father with AAA, HTN, DM, RCC s/p excision  
 Sister with several spontaneous abortions, fibromyalgia  
 
Physical Exam:
Discharge PE:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
ROM from 0 degrees extension to ___ of flexion actively 
No calf tenderness  
___ strength  
SILT, NVI distally  
Toes warm
 
Pertinent Results:
No labs
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient procedure did not neccesitate 
perioperative IV antibiotics.

Post-operative course was remarkable for the following:
POD 1: Patient with ___ headache after the wet tap during 
epidural yesterday, will plan to keep overnight for observation
POD 2: Patient complained of worsening headache with mild relief 
from Imitrex PRN. She was evaluated by the Anesthesia team, who 
recommended an epidural blood patch for treatment of headache. 
POD 3: Patient received epidural blood patch in the pain clinic 
prior to discharge and tolerated the procedure well.

Otherwise, pain was initially controlled with an femoral nerve 
block followed by a transition to oral pain medications on 
POD#0.  The patient used SCDs and TEDs for DVT ppx.  The patient 
was voiding independently prior to discharge. No surgical 
incision was made during this admission. Labs were checked 
throughout the hospital course and repleted accordingly. At the 
time of discharge the patient was tolerating a regular diet and 
feeling well.  The patient was afebrile with stable vital signs. 
 The patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact.

The patient's weight-bearing status is weight bearing as 
tolerated in the left lower extremity. She will continue to use 
her CPM machine at home ranging from -5 to 125 degrees.
 
Ms. ___ is discharged to home in stable condition. Patient 
will begin outpatient ___ upon discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO QHS 
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY:PRN 
Eczema 
3. Gabapentin 300 mg PO TID 
4. BuPROPion 150 mg PO DAILY 
5. Lidocaine 5% Patch 1 PTCH TD DAILY:PRN Pain 
6. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
7. Diltiazem 240 mg PO QPM 
8. abatacept (with maltose) 250 mg injection unknown 
9. Estradiol Transdermal Patch (estradiol) .075 mg transdermal 
___ evening and ___ AM 
10. Ranitidine 150 mg PO BID 
11. TraMADol 50 mg PO TID:PRN Pain - Moderate 
12. mometasone-formoterol 100-5 mcg/actuation inhalation unknown 

13. esomeprazole magnesium 40 mg oral BID 
14. DULoxetine 60 mg PO QPM 
15. Sumatriptan Succinate 50 mg PO DAILY:PRN Migraine 
16. Indapamide 2.5 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
2.  Docusate Sodium 100 mg PO BID 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
4.  Senna 8.6 mg PO BID  
5.  abatacept (with maltose) 250 mg injection unknown  
6.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
7.  BuPROPion 150 mg PO DAILY  
8.  Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY:PRN 
Eczema  
9.  ClonazePAM 0.5 mg PO QHS:PRN anxiety  
10.  Diltiazem Extended-Release 240 mg PO QPM  
11.  Diltiazem 240 mg PO QPM  
12.  DULoxetine 60 mg PO QPM  
13.  esomeprazole magnesium 40 mg oral BID  
14.  Estradiol Transdermal Patch (estradiol) .075 mg transdermal 
___ evening and ___ AM  
15.  Gabapentin 300 mg PO TID  
16.  Indapamide 2.5 mg PO QPM  
17.  Lidocaine 5% Patch 1 PTCH TD DAILY:PRN Pain  
18.  Lisinopril 10 mg PO QHS  
19.  mometasone-formoterol 100-5 mcg/actuation inhalation 
unknown  
20.  Ranitidine 150 mg PO BID  
21.  Sumatriptan Succinate 50 mg PO DAILY:PRN Migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L knee stiffness s/p prior L TKR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in three (3) weeks.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity. Do not place ice directly on the 
skin. You may wrap the knee with an ace bandage for added 
compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc) until cleared by 
your physician.
 
8. ANTICOAGULATION: None needed

9. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize with assistive devices (___) if 
needed.  Range of motion at the knee as tolerated. CPM machine 
from -5 degrees to 125 degrees. No strenuous exercise or heavy 
lifting until follow up appointment.
Physical Therapy:
WBAT LLE, ROMAT LLE
CPM Machine- range from -5 degrees of extension to ___ degrees 
of flexion at least 3 times per day, 2 hours each session
Mobilize frequently

Treatments Frequency:
Ice to knee 
 
Followup Instructions:
___